US08357693B2
A mixture of 5-(6-acetoxy-2-(3-(nicotinamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.374 g, 0.607 mmol) and 28% NH4OH (0.45 mL) in MeOH (50 mL) was stirred at RT for 24 h. The volatiles were removed in vacuo and the residue was washed with Et2O to give the product tert-butyl 5-(6-hydroxy-2-(3-(nicotinamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.318 g, 0.554 mmol, 91%).

reactant | 5-(6-acetoxy-2-(3-(nicotinamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.607 mmol, 0.374 g | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1)C1=CC(=CC=C1)NC(C1=CN=CC=C1)=O)NC=1C=C2C=NN(C2=CC1)C(=O)[O-]
reactant | NH4OH | 0.45 mL | [NH4+].[OH-]
solvent | MeOH | 50 mL | CO | CH4O
product | tert-butyl 5-(6-hydroxy-2-(3-(nicotinamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.554 mmol, 0.318 g, 91% | OC=1C=C2C(=NC(=NC2=CC1)C1=CC(=CC=C1)NC(C1=CN=CC=C1)=O)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C32H27N7O4
